US06001439
A PFA-made cylinder was charged with 35.72 g (0.248 mol) of recrystallized L-(-)-lactide and 162.4 g (1.4 mol) of glycolide, and 17.0 ml of bis-2-methoxyethyl phthalate, 0.20 ml of a toluene solution of tin octanoate at a molar concentration of 0.33 and 0.0626 g of glycolic acid were added. After toluene was removed under high vacuum of 0.1 mmHg, and purging with nitrogen was conducted twice, the contents were heated at 180° C. for 40 minutes with stirring. The heating was further continued for 4 hours and 20 minutes to conduct polymerization. The resultant polymer was ground into fine particles having a particle size of about 3 mm or smaller. The fine particles were dried at about 25° C. for 48 hours under reduced pressure of about 0.1 kPa, thereby obtaining a glycolic acid/lactic acid copolymer [Polymer (P-C2)]. The same process was conducted repeatedly to prepare a necessary amount of Polymer (P-C2).

reactant | L-(-)-lactide | 0.248 mol, 35.72 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | glycolide | 1.4 mol, 162.4 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | tin octanoate | C(CCCCCCC)(=O)[O-].[Sn+4].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-]
reactant | glycolic acid | 0.0626 g | C(CO)(=O)O | C2H4O3
solvent | toluene | 0.20 ml | C1(=CC=CC=C1)C | C7H8
product | glycolic acid lactic acid | C(CO)(=O)O.C(C(O)C)(=O)O | InChI=1S/C3H6O3.C2H4O3/c1-2(4)3(5)6;3-1-2(4)5/h2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)
